US07179804B2
2-Azidomethyl-1-methoxy-4-trifluoromethoxy-benzene
Dissolve (2-methoxy-5-trifluoromethoxy-phenyl)-methanol (4.49 g, 20.2 mmol) in DMF (40 mL) and treat with thionyl chloride (1.65 g, 22.6 mmol). Stir at RT for 2 h, then treat with potassium carbonate (5.57 g, 40.3 mmol), sodium azide (2.35 g, 36.1 mmol), and DMSO (40 mL). Stir the resulting mixture at RT overnight, then pour into water (100 mL) and extract with ether (3×100 mL). Combine the organic phases and wash with water (2×100 mL) and brine (100 mL). Dry the organic layer (MgSO4), filter, and concentrate to give the title compound (4.77 g, 96%) as a colorless oil that may be used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.14 (m, 2H), 6.87 (m, 1H), 4.34 (s, 2H), 3.85 (s, 3H).

reactant | (2-methoxy-5-trifluoromethoxy-phenyl)-methanol | 20.2 mmol, 4.49 g | COC1=C(C=C(C=C1)OC(F)(F)F)CO | C9H9F3O3
reactant | thionyl chloride | 22.6 mmol, 1.65 g | S(=O)(Cl)Cl | Cl2OS
reactant | potassium carbonate | 40.3 mmol, 5.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium azide | 36.1 mmol, 2.35 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 2-Azidomethyl-1-methoxy-4-trifluoromethoxy-benzene | 4.77 g, 96% | N(=[N+]=[N-])CC1=C(C=CC(=C1)OC(F)(F)F)OC | C9H8F3N3O2
